US06358665B1
To a stirred solution of 60.0 g (0.164 mol) of bis-(4-t-butoxyphenyl) sulfoxide in 26.8 g (0.34 mol) of pyridine and 400 ml of tetrahydrofuran was dropped 75.6 g (0.34 mol) of trimethylsilyl 3,3,3,2,1,1-hexafluoropropane sulfonate while keeping the temperature below −5° C. with a salted ice bath. After completion of the addition, the reaction temperature was raised to 5° C., followed by stirring for 20 minutes. A Grignard solution was prepared from 8.4 g (0.34 mol) of magnesium, 100 g of tetrahydrofuran and 68.6 g (0.38 mol) of 4-t-butoxy chlorobenzene, and added dropwise to the above solution at 0° C. The mixture was stirred for 2 hours at this temperature. Then water was added to decompose the excess Grignard reagent, and the inorganic salts were removed by filtration. The solution was concentrated to about 160 ml and extracted with a mixture of 1200 ml of dichloromethane, 600 g of a saturated aqueous solution of ammonium chloride and 600 ml water. The organic phase was washed twice with water and dried. The solvent was removed to yield an oily product which was then purified by column chromatography on silica gel using dichloromethane as the eluant. Thus, tris-(4-butoxyphenyl) sulfonium 3,3,3,2,1,1-hexafluoropropane sulfonate was obtained as a slightly yellowish powder (m.p. 107° C.). The structure was confirmed by 1H-NMR (CDCl3) with δ=1.42 (s, 27H), 5.14-5.52 (d[m], 1H), 7.17-7.20 (d, 6H) and 7.55-7.60 ppm (d, 6H).

reactant | bis-(4-t-butoxyphenyl) sulfoxide | 0.164 mol, 60.0 g | C(C)(C)(C)OC1=CC=C(C=C1)S(=O)C1=CC=C(C=C1)OC(C)(C)C | C20H26O3S
reactant | pyridine | 0.34 mol, 26.8 g | N1=CC=CC=C1 | C5H5N
reactant | trimethylsilyl 3,3,3,2,1,1-hexafluoropropane sulfonate | 0.34 mol, 75.6 g | FC(C(C(S(=O)(=O)O[Si](C)(C)C)(F)F)F)(F)F | C6H10F6O3SSi
reactant | magnesium | 0.34 mol, 8.4 g | [Mg] | Mg
reactant | 4-t-butoxy chlorobenzene | 0.38 mol, 68.6 g | C(C)(C)(C)OC1=CC=C(C=C1)Cl | C10H13ClO
reactant | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 100 g | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | tris-(4-butoxyphenyl) sulfonium 3,3,3,2,1,1-hexafluoropropane sulfonate | FC(C(C(S(=O)(=O)[O-])(F)F)F)(F)F.C(CCC)OC1=CC=C(C=C1)[S+](C1=CC=C(C=C1)OCCCC)C1=CC=C(C=C1)OCCCC | InChI=1S/C30H39O3S.C3H2F6O3S/c1-4-7-22-31-25-10-16-28(17-11-25)34(29-18-12-26(13-19-29)32-23-8-5-2)30-20-14-27(15-21-30)33-24-9-6-3;4-1(2(5,6)7)3(8,9)13(10,11)12/h10-21H,4-9,22-24H2,1-3H3;1H,(H,10,11,12)/q+1;/p-1
